US07601846B2
3-(4-Methyl-benzyl)-3H-benzothiazol-2-ylideneamine hydrochloride salt (19)
A mixture of 2-aminobenzothiazole (2.104 g, 13.6 mmol) and 4-methylbenzyl chloride (2.25 mL, 12.5 mmol) was refluxed for 8 hours in methoxyethanol in the presence of a catalytic amount of sodium iodide (220 mg, 1.46 mmol). After cooling a precipitate formed which was filtered and rinsed with ether to give 35% yield: mp 243-248° C.; 1H-NMR (DMSO-d6) 2.26 (s, 3H), 5.65 (s, 2H), 7.20 (dd, 4H), 7.39 (t, 1H), 7.48 (t, 1H), 7.55 (d, 1H), 8.02 (d, 1H); HR-MS (EI) m/z 254.0870 (M+).

reactant | 2-aminobenzothiazole | 13.6 mmol, 2.104 g | NC=1SC2=C(N1)C=CC=C2 | C7H6N2S
reactant | 4-methylbenzyl chloride | 12.5 mmol, 2.25 mL | CC1=CC=C(CCl)C=C1 | C8H9Cl
reactant | sodium iodide | 1.46 mmol, 220 mg | [I-].[Na+]
solvent | methoxyethanol | COC(C)O | C3H8O2
product | 3-(4-Methyl-benzyl)-3H-benzothiazol-2-ylideneamine hydrochloride salt | 35% yield | Cl.CC1=CC=C(CN2C(SC3=C2C=CC=C3)=N)C=C1 | InChI=1S/C15H14N2S.ClH/c1-11-6-8-12(9-7-11)10-17-13-4-2-3-5-14(13)18-15(17)16;/h2-9,16H,10H2,1H3;1H
